US05208240
Scheme A, Step g: 4-[[2-(1,1-Dimethylethoxy)-2-oxoethyl]oxy]-alpha-methyl-benzenepropanoic acid
Dissolve 4-[[2-(1,1-dimethylethoxy)-2-oxoethyl]oxy]-alpha-methyl-benzenepropanoic acid, methyl ester (10 g, 32.4 mmol) in anhydrous hexamethylphosphoramide (160 mL) and treat with sodium cyanide (1.59 g, 32.4 mmol). Heat at 70° C. for 48 hours, cool and dilute with saturated ammonium chloride (300 mL). Extract with ethyl ether (400 mL), wash with water (2×300 mL), then brine (300 mL) and dry (MgSO4). Evaporate the solvent in vacuo and purify by flash chromatography (5→10% methanol/chloroform) to give the title compound (1.09 g).

reactant | 4-[[2-(1,1-dimethylethoxy)-2-oxoethyl]oxy]-alpha-methyl-benzenepropanoic acid, methyl ester | 32.4 mmol, 10 g | CC(C)(OC(COC1=CC=C(C=C1)CC(C(=O)OC)C)=O)C | C17H24O5
reactant | sodium cyanide | 32.4 mmol, 1.59 g | [C-]#N.[Na+]
solvent | hexamethylphosphoramide | 160 mL | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | ammonium chloride | 300 mL | [Cl-].[NH4+]
product | 4-[[2-(1,1-Dimethylethoxy)-2-oxoethyl]oxy]-alpha-methyl-benzenepropanoic acid | 1.09 g | CC(C)(OC(COC1=CC=C(C=C1)CC(C(=O)O)C)=O)C | C16H22O5
